US04447425
Acetic anhydride (5.25 ml) was added dropwise to a stirred solution of 16β-(1-piperidinyl)-5α-androstane-2β,17β-diol (14.0 g) in pyridine (280 ml) maintaining the temperature below 5° C. by means of an ice-bath. When the addition was complete, the cooling bath was removed. After 2 h, saturated sodium carbonate solution (approx. 120 ml) was added to give pH >7 and the precipitated product was extracted into dichloromethane (100 ml). The extract was washed with water (3×200 ml), dried (MgSO4) and evaporated to dryness. Crystallisation of the residue from acetone afforded 16β-(1-piperidinyl)-5α-androstane-2β,17β-diol 17-acetate (14.38 g), m.p. 239°-240° C.; [α]D +25.5° C. (c 0.53 in CHCl3).

reactant | Acetic anhydride | 5.25 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 16β-(1-piperidinyl)-5α-androstane-2β,17β-diol | 14.0 g | N1(CCCCC1)[C@@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CC[C@H]3CC[C@H](C[C@]3(C)[C@H]1CC2)O)O | C24H41NO2
solvent | pyridine | 280 ml | N1=CC=CC=C1 | C5H5N
product | 16β-(1-piperidinyl)-5α-androstane-2β,17β-diol 17-acetate | 14.38 g | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](C[C@@H]1N1CCCCC1)[C@@H]1CC[C@H]3CC[C@H](C[C@]3(C)[C@H]1CC2)O | C26H43NO3
